US05250669
(1) Synthesis of 1,7-bis(4-methylphenyl)-3,5-heptanedione
Using 2,4-pentandione (195.2 g, 1.95 moles) and 4-methylbenzylchloride (635.4 g), the reaction was carried out in the same manner as described in Example 17, (1), and the residue (568 g) was recrystallized from ethanol to afford the title compound as a white needles which was an ca 1:9 mixture of Keto/Enol as seen by the methylene singlet at δ3.50 ppm and the methine singlet at δ5.43 ppm in the 1HNMR spectrum; yield: 155 g; mp 74.8°-75.7° C.

reactant | 2,4-pentandione | 1.95 moles, 195.2 g | CC(CC(C)=O)=O | C5H8O2
reactant | 4-methylbenzylchloride | 635.4 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
product | 1,7-bis(4-methylphenyl)-3,5-heptanedione | CC1=CC=C(C=C1)CCC(CC(CCC1=CC=C(C=C1)C)=O)=O | C21H24O2
